US06953790B2
Step E: Benzyl (3R)-2-oxo-6-phenyl-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate
A solution of L-methionine (2.56 g, 17.2 mmol) in trifluoroacetic acid (15 mL) was added to a solution of benzyl (3R)-1-(2,4-dimethoxybenzyl)-2-oxo-6-phenyl-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate (0.84 g, 1.72 mmol) in dichloromethane (20 mL). After 18 h, the mixture was concentrated and water was added. The mixture was extracted with ethyl acetate, washed with water (2×), saturated aqueous sodium bicarbonate (2×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexanes→50% ethyl acetate/hexanes) gave the title compound (0.44 g). MS 337 (M+1).

reactant | L-methionine | 17.2 mmol, 2.56 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | benzyl (3R)-1-(2,4-dimethoxybenzyl)-2-oxo-6-phenyl-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 1.72 mmol, 0.84 g | COC1=C(CN2C([C@@H](CC=C(C2)C2=CC=CC=C2)NC(OCC2=CC=CC=C2)=O)=O)C=CC(=C1)OC | C29H30N2O5
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Benzyl (3R)-2-oxo-6-phenyl-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 0.44 g | O=C1NCC(=CC[C@H]1NC(OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C20H20N2O3
